US04379161
(2) 2-[1-(1-cyclohexenylmethyl)-2-pyrrolidinyl]chloroethanol
17.8 g of 2-[1-(1-cyclohexenylmethyl) 2-pyrrolidinyl]ethanol (0.085 mole) and 50 ml of chloroform are introduced into a 250 ml balloon flask provided with a stirrer, a thermometer, a condenser and a dropping funnel, then 15.3 ml of thionyl chloride is dropped in, the temperature being kept at about 25°-25° C. by cooling.

reactant | 2-[1-(1-cyclohexenylmethyl) 2-pyrrolidinyl]ethanol | 0.085 mole, 17.8 g | C1(=CCCCC1)CN1C(CCC1)CCO | C13H23NO
reactant | thionyl chloride | 15.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[1-(1-cyclohexenylmethyl)-2-pyrrolidinyl]chloroethanol | C1(=CCCCC1)CN1C(CCC1)CC(O)Cl | C13H22ClNO
